US04663319
Phenethylamine (121 g) is dissolved in methanol (500 ml) and thereto is added dropwise methyl acrylate (86 g) at room temperature. The mixture is stirred for 4 hours and then distilled to remove the solvent to give N-phenethyl-β-alanine methyl ester (157.8 g, 76%), b.p. 124°-127° C. (1.2 mmHg).

reactant | Phenethylamine | 121 g | C(CC1=CC=CC=C1)N | C8H11N
reactant | methyl acrylate | 86 g | C(C=C)(=O)OC | C4H6O2
solvent | methanol | 500 ml | CO | CH4O
product | N-phenethyl-β-alanine methyl ester | 157.8 g, 76% | COC(CCNCCC1=CC=CC=C1)=O | C12H17NO2
